US08039620B2
In a 250 ml 4 neck round bottom flask equipped with mechanical stirrer, Thermo pocket were charged DM water (30 ml) and 5,8,14-Triazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene Tosylate salt (10 g, having a total purity of 99.42% obtained in example 4). The above suspension was stirred for 30 minutes at 25-30° C. To this was added 25% aqueous ammonia solution (5 ml) to adjust the pH to 9.0-10 at 25-30° C., and MDC (30 ml) was added to this solution. The resulting mixture was stirred for 30 minutes at 20-25° C. The organic layer was separated, and the aqueous layer was extracted with MDC (4×30 ml). The combined organic layer was washed with DM water (30 ml). The organic layer was treated with activated carbon (1.0 g), and stirred for 30 minutes at 25-30° C. The resulting solution filtered through celite. Concentration afforded a solid product, i.e. 5,8,14-Triazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene. (Yield-5 g (95.06% (relative to VRN-Tosylate)), HPLC purity-99.43%).

reactant | 5,8,14-Triazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene Tosylate salt | S(=O)(=O)(O)C1=CC=C(C)C=C1.C12C=3C=C4N=CC=NC4=CC3C(CNC1)C2
reactant | ammonia | 5 ml | N | H3N
solvent | water | 30 ml | O | H2O
product | 5,8,14-Triazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene | C12C=3C=C4N=CC=NC4=CC3C(CNC1)C2 | C13H13N3
